US06218576B1
Synthesis of bis(4-morpholinophenyl)amine (1-6)
In a 300-ml four-necked flask were charged 68 ml of decahydronaphthalene (boiling point: 190° C.) as a solvent and 17.8 g (0.50 mol) of 4-morpholinoaniline, followed by the addition of 15.4 g (0.138 mol) of anhydrous calcium chloride and 18.5 g (0.138 mol) of anhydrous aluminum chloride under stirring. The resulting mixture was reacted at 200 to 210° C. for 5 hours under a nitrogen atmosphere. After cooling, the reaction mixture was added with 76 ml of toluene, followed by charging in 96 g of ice water. The resulting mixture was stirred and allowed to stand, and then, the resulting water layer was separated out. The organic layer was washed successively with 90 ml of a 5% aqueous solution of hydrochloric acid, 60 ml of a 5% aqueous solution of sodium bicarbonate and 60 ml of water. After removal of the organic solvent by distillation under reduced pressure, 48 ml of isopropyl alcohol was added to the residue and the mixture was crystallized overnight at −3 to −8° C. The resulting crystals were collected by filtration, washed with 18 ml of isopropyl alcohol and then dried, whereby 44.9 g (yield: 58.4%) of the title compound was obtained as white crystals. As a result of HPLC. analysis (column: YMC-A-312, detection UV: 280 nm, flow rate: 1.0 ml/min, eluent: acetonitrile/water 7/3), the compound was found to have a purity of 99.7%.

reactant | 4-morpholinoaniline | 0.50 mol, 17.8 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | calcium chloride | 0.138 mol, 15.4 g | [Cl-].[Ca+2].[Cl-]
reactant | aluminum chloride | 0.138 mol, 18.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 76 ml | C1(=CC=CC=C1)C | C7H8
solvent | decahydronaphthalene | 68 ml | C1CCCC2CCCCC12 | C10H18
product | bis(4-morpholinophenyl)amine | 44.9 g, yield: 58.4% | O1CCN(CC1)C1=CC=C(C=C1)NC1=CC=C(C=C1)N1CCOCC1 | C20H25N3O2
